US07943619B2
e) 6-(5-Methyl-3-pyridin-4-yl-isoxazol-4-ylmethoxy)-pyridazine-3-carboxylic acid cyclopropylmethyl-amide
A solution of trimethylaluminium (2 M in toluene, 587 μL, 1.2 mmol) was added dropwise (exothermic) to a solution of aminomethylcyclopropane (85 mg, 101 μL, 1.2 mmol) in dioxane (6 mL) and the resulting mixture was stirred at room temperature for 1 h. Then a solution of 6-(5-methyl-3-pyridin-4-yl-isoxazol-4-ylmethoxy)-pyridazine-3-carboxylic acid ethyl ester (100 mg, 0.29 mmol) in dioxane (4 mL) was added. The resulting mixture was heated at 85-95° C. for 3 h, cooled to room temperature, poured into a sodium potassium tartrate solution and extracted with ethyl acetate which was then washed with brine, dried over sodium sulfate and evaporated. Purification by chromatography (SiO2, heptane:ethyl acetate=100:0 to 0:100) afforded the title compound (78 mg, 73%) which was obtained as a light yellow solid. MS: m/e=366.3 [M+H]−.

reactant | trimethylaluminium | 1.2 mmol, 2 M, 587 μL | C[Al](C)C
reactant | aminomethylcyclopropane | 1.2 mmol, 101 μL, 85 mg | NCC1CC1 | C4H9N
reactant | 6-(5-methyl-3-pyridin-4-yl-isoxazol-4-ylmethoxy)-pyridazine-3-carboxylic acid ethyl ester | 0.29 mmol, 100 mg | C(C)OC(=O)C=1N=NC(=CC1)OCC=1C(=NOC1C)C1=CC=NC=C1 | C17H16N4O4
reactant | sodium potassium tartrate | C(=O)([O-])C(O)C(O)C(=O)[O-].[K+].[Na+]
solvent | dioxane | 6 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
product | 6-(5-Methyl-3-pyridin-4-yl-isoxazol-4-ylmethoxy)-pyridazine-3-carboxylic acid cyclopropylmethyl-amide | 78 mg, 73% | C1(CC1)CNC(=O)C=1N=NC(=CC1)OCC=1C(=NOC1C)C1=CC=NC=C1 | C19H19N5O3
